US06495576B2
N-(1-(1H-1,2,3-Benzotriazol-1-yl-2,2-dimethylpropyl)-4-iodobenzamide
A suspension of 4-iodobenzamide, pivaldehyde, benzotriazole, and p-toluenesulfonic acid was processed as described in Example IC to provide the title compound.

reactant | 4-iodobenzamide | IC1=CC=C(C(=O)N)C=C1 | C7H6INO
reactant | pivaldehyde | CC(C)(C)C=O | C5H10O
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-(1H-1,2,3-Benzotriazol-1-yl-2,2-dimethylpropyl)-4-iodobenzamide | N1(N=NC2=C1C=CC=C2)C(C(C)(C)C)C2(C(=O)N)CC=C(C=C2)I | C18H21IN4O
